### PR TITLE
refactor(Computability): make `PFun` a one-field structure

### PR DESCRIPTION
**Pull request by AlexeyMilovanov**
This PR refactors `PFun` from `def PFun α β := α → Part β` to a structure with a `FunLike` instance.

[Discussion](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Fix.20for.20fun_prop.20on.20PFun.20.28context.3A.20Computability.20Theory.29)

### Main changes

- Redefine `PFun` as a structure with one field, `toFun : α → Part β`.
- Add the `FunLike (α →. β) α (Part β)` instance and configure `simps` projections.
- Add the projection and application simp lemmas required by the structure wrapper.
- Add `fun x ↦. ...` notation for partial-function literals.
- Adapt downstream equality proofs to use `PFun.ext` or `DFunLike.ext` where
  `funext` no longer applies directly.
- Remove 33 local `backward.isDefEq.respectTransparency false` workarounds that
  are no longer needed after the refactor.
  
### Downstream impact

The refactor mainly impacts Computability Theory and Category Theory (`Category/PartialFun.lean`). Since `PFun` is no longer definitionally equal to `α → Part β`, tactics such as `rfl`, `simp`, and `funext` can no longer always see through the old raw-function representation.

### Note on LLM usage

The core `PFun` change caused numerous downstream errors. I initially used an LLM to help draft fixes for these files. Afterwards, I spent a significant amount of time manually correcting and modifying all of the generated changes.

### CODE REVIEW

**Comment by j-loreaux** [comment]
@AlexeyMilovanov Is this PR LLM-generated?

**Comment by AlexeyMilovanov** [comment]
@j-loreaux No, it is not LLM-generated, but I use it as helpers.

**Comment by AlexeyMilovanov** [comment]
-awaiting-author

**Comment by dagurtomas** [comment]
The move from `def` to `structure` seems very reasonable to me. However, it seems like this PR is trying to do more things at once, or doing this refactor badly. The fact that the `+` number of lines is so much larger than the `-` number indicates this. Please open a PR with a smaller/nicer diff that does only the change `def` -> `structure` and nothing else (no renames or additional "helpers to reduce boilerplate", but of course you need the FunLike instance and the relevant simps projections). The rest can then be done in a followup PR. If there are regressions in the minimal refactor PR (like proofs growing in size, like you mention in the PR description), indicate these clearly and ask for help to fix them. In some cases, API can be improved before the refactor to avoid such regressions. It's also a bad sign that this PR is increasing the amount of `erw`

**Comment by AlexeyMilovanov** [comment]
-awaiting-author

**Comment by JovanGerb** [comment]
I haven't seen anyone familiar with computability say that this refactor is a good idea, and the diff is quite large. The PR also looks quite LLM-y

**Comment by AlexeyMilovanov** [comment]
@JovanGerb  Could you please share what specific concerns people familiar with computability have about this refactor?

**Comment by JovanGerb** [comment]
The use of AI makes this PR hard to review, and there is also no consensus on Zulip about this change. So, I will close this PR.

**Comment by YaelDillies** [comment]
Making `PFun` either a `structure` or an `abbrev` is a good change, but have you discussed on Zulip why the former is better than the latter?

Please also note that LLM-generated PR descriptions are against our AI policy. I see no issue with the PR being otherwise "LLM-y" since this refactor is very mechanical. I myself have just performed a series of LLM-powered refactors.

Can you discuss this refactor on Zulip? We could reopen this PR afterwards.

**Comment by YaelDillies** [comment]
Sorry, I now see you have already discussed this in https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Fix.20for.20fun_prop.20on.20PFun.20.28context.3A.20Computability.20Theory.29 and I am happy with the reasons you put forward there. Your PR description looks LLM-y indeed, but is not overly lengthy as a result. Hence I see no reason to close this PR.

File: Mathlib/Data/PFun.lean [hunk 1]
```diff
@@ -69,7 +71,21 @@ namespace PFun
...
-  ⟨fun _ => Part.none⟩
+  ⟨PFun.mk fun _ => Part.none⟩
+
+instance : FunLike (α →. β) α (Part β) where
+  coe := PFun.toFun
+  coe_injective _ _ := congrArg PFun.mk
+
+initialize_simps_projections PFun (toFun → apply)
+
+@[simp] theorem coe_mk (f : α → Part β) : ⇑(PFun.mk f) = f := rfl
```
Comment (YaelDillies) [inline Mathlib/Data/PFun.lean]:
```suggestion
@[simp] theorem coe_mk (f : α → Part β) : ⇑(mk f) = f := rfl
```
Same everywhere else

File: Mathlib/Data/PFun.lean [hunk 2]
```diff
@@ -100,11 +117,11 @@ def evalOpt (f : α →. β) [D : DecidablePred (· ∈ Dom f)] (x : α) : Optio
 /-- Partial function extensionality -/
 theorem ext' {f g : α →. β} (H1 : ∀ a, a ∈ Dom f ↔ a ∈ Dom g) (H2 : ∀ a p q, f.fn a p = g.fn a q) :
     f = g :=
-  funext fun a => Part.ext' (H1 a) (H2 a)
+  DFunLike.ext f g fun a => Part.ext' (H1 a) (H2 a)
```
Comment (YaelDillies) [inline Mathlib/Data/PFun.lean:133]: Can you make `ext` tactic work here?

**Review by YaelDillies — COMMENTED** [review]
Do you think we should introduce a notation `fun x \mapsto. f x` for `PFun.mk fun x \mapsto f x`? Looking at your diff, it is a very common pattern.

**Comment by AlexeyMilovanov** [comment]
-awaiting-author

File: Mathlib/Computability/PartrecBasis.lean [hunk 3]
```diff
@@ -31,9 +31,10 @@ inductive Partrec' : ∀ {n}, (List.Vector ℕ n →. ℕ) → Prop
   | prim {n f} : @Primrec' n f → @Partrec' n f
   | comp {m n f} (g : Fin n → List.Vector ℕ m →. ℕ) :
     Partrec' f → (∀ i, Partrec' (g i)) →
-      Partrec' fun v => (List.Vector.mOfFn fun i => g i v) >>= f
+      Partrec' (fun v ↦. (List.Vector.mOfFn fun i => g i v) >>= f)
```
Comment (YaelDillies) [inline Mathlib/Computability/PartrecBasis.lean]: Can you adapt the notation so that this parses without extra brackets?

File: Mathlib/Data/PFun.lean [hunk 4]
```diff
@@ -240,19 +273,18 @@ theorem mem_fix_iff {f : α →. β ⊕ α} {a : α} {b : β} :
     next e => simp only [Part.mem_some_iff] at h₃; subst b; exact Or.inl ⟨h₂, e⟩
     next e => exact Or.inr ⟨_, ⟨_, e⟩, Part.mem_assert _ h₃⟩,
    fun h => by
-    simp only [fix, Part.mem_assert_iff]
+    simp only [fix, Part.mem_assert_iff, coe_mk]
     rcases h with (⟨h₁, h₂⟩ | ⟨a', h, h₃⟩)
     · refine ⟨⟨_, fun y h' => ?_⟩, ?_⟩
       · injection Part.mem_unique ⟨h₁, h₂⟩ h'
       · rw [WellFounded.fixF_eq]
-        -- Porting note: used to be simp [h₁, h₂]
```
Comment (YaelDillies) [inline Mathlib/Data/PFun.lean:248]: Why are you removing this porting note? You haven't resolved it

File: Mathlib/Computability/Partrec.lean [hunk 5]
```diff
@@ -159,21 +159,25 @@ theorem rfindOpt_mono {α} {f : ℕ → Option α} (H : ∀ {a m n}, m ≤ n →
...
-  | zero : Nat.Partrec (pure 0)
-  | succ : Nat.Partrec succ
-  | left : Nat.Partrec ↑fun n : ℕ => n.unpair.1
-  | right : Nat.Partrec ↑fun n : ℕ => n.unpair.2
-  | pair {f g} : Nat.Partrec f → Nat.Partrec g → Nat.Partrec fun n => pair <$> f n <*> g n
-  | comp {f g} : Nat.Partrec f → Nat.Partrec g → Nat.Partrec fun n => g n >>= f
-  | prec {f g} : Nat.Partrec f → Nat.Partrec g → Nat.Partrec (unpaired fun a n =>
-      n.rec (f a) fun y IH => do let i ← IH; g (pair a (pair y i)))
+  | zero : Nat.Partrec (PFun.lift fun _ => 0)
+  | succ : Nat.Partrec (PFun.lift Nat.succ)
```
Comment (YaelDillies) [inline Mathlib/Computability/Partrec.lean]: Why do you need all these `lift`s? Did you remove a coercion?

File: Mathlib/Data/PFun.lean (hunk 4 above)
Comment (AlexeyMilovanov) [reply Mathlib/Data/PFun.lean:248]: Oops, sorry — restored.

File: Mathlib/Computability/Partrec.lean (hunk 5 above)
Comment (AlexeyMilovanov) [reply Mathlib/Computability/Partrec.lean]: The coercion is still there. The explicit lifts were unnecessary, so I removed them and added type annotations where needed.

**Comment by AlexeyMilovanov** [comment]
@YaelDillies Thanks — I believe all your points are now addressed: the notation parses as requested, `ext` works, the porting note is back, and the unnecessary prefixes and `PFun.lift`s are gone.

I also restored the previous shapes of the `Partrec₂.unpaired` and evaluator lemmas, kept `Finset.pimage_some` inference working, and simplified a few proofs in `PFun` and `RE`.

One notation question remains. Since `↦.` is parsed as a single token, the previously valid expression

```lean
#check ((fun x ↦.some x) : Nat → Option Nat)
```

used to be read as the ordinary lambda `fun x ↦ .some x`, but now selects the partial-function notation and fails to elaborate. Adding a space after `↦` still works, and there are no occurrences of the old spelling in mathlib. Is this compatibility edge case acceptable?


-awaiting-author

**Comment by YaelDillies** [comment]
Yes, perfectly acceptable. The space was missing anyway

File: Mathlib/Computability/Partrec.lean [hunk 6]
```diff
@@ -232,11 +236,11 @@ end Nat
 
 /-- Partially recursive partial functions `α → σ` between `Primcodable` types -/
 def Partrec {α σ} [Primcodable α] [Primcodable σ] (f : α →. σ) :=
-  Nat.Partrec fun n => Part.bind (decode (α := α) n) fun a => (f a).map encode
+  Nat.Partrec (fun n ↦. Part.bind (decode (α := α) n) fun a => (f a).map encode)
```
Comment (YaelDillies) [inline Mathlib/Computability/Partrec.lean]: You have got a few extra brackets still

File: Mathlib/Computability/Partrec.lean [hunk 7]
```diff
@@ -295,7 +300,7 @@ theorem snd : Computable (@Prod.snd α β) :=
 
 nonrec theorem pair {f : α → β} {g : α → γ} (hf : Computable f) (hg : Computable g) :
     Computable fun a => (f a, g a) :=
-  (hf.pair hg).of_eq fun n => by cases decode (α := α) n <;> simp [Seq.seq]
+  (hf.pair hg).of_eq fun n => by cases e : decode (α := α) n <;> simp [e, Seq.seq]
```
Comment (YaelDillies) [inline Mathlib/Computability/Partrec.lean:306]: I don't understand why this change is necessary. Can you explain?

File: Mathlib/CategoryTheory/Category/PartialFun.lean [hunk 8]
```diff
@@ -60,8 +60,8 @@ set_option backward.isDefEq.respectTransparency.types false in
 /-- Constructs a partial function isomorphism between types from an equivalence between them. -/
 @[simps]
 def Iso.mk {α β : PartialFun.{u}} (e : α ≃ β) : α ≅ β where
-  hom x := e x
-  inv x := e.symm x
+  hom := PFun.lift e
+  inv := PFun.lift e.symm
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Category/PartialFun.lean]: Are these necessary still?

File: Mathlib/Computability/Partrec.lean (hunk 6 above)
Comment (AlexeyMilovanov) [reply Mathlib/Computability/Partrec.lean]: Done, thanks.

File: Mathlib/Computability/Partrec.lean (hunk 7 above)
Comment (AlexeyMilovanov) [reply Mathlib/Computability/Partrec.lean:306]: After bundling PFun, cases no longer sees decode n under the coercion. Naming the equation lets the following simp rewrite it. Without that equation, both branches remain open.

File: Mathlib/CategoryTheory/Category/PartialFun.lean (hunk 8 above)
Comment (AlexeyMilovanov) [reply Mathlib/CategoryTheory/Category/PartialFun.lean]: No, they aren’t. The old pointwise form no longer elaborates, but explicit type ascriptions do, so I replaced these two lifts with type ascriptions.

**Comment by AlexeyMilovanov** [comment]
-awaiting-author

File: Mathlib/CategoryTheory/Category/PartialFun.lean [hunk 9]
```diff
@@ -60,8 +60,8 @@ set_option backward.isDefEq.respectTransparency.types false in
 /-- Constructs a partial function isomorphism between types from an equivalence between them. -/
 @[simps]
 def Iso.mk {α β : PartialFun.{u}} (e : α ≃ β) : α ≅ β where
-  hom x := e x
-  inv x := e.symm x
+  hom := (e : α →. β)
+  inv := (e.symm : β →. α)
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Category/PartialFun.lean:64]: Does this not work?
```suggestion
  hom := e
  inv := e.symm
```
Oh because we're abusing defeqs in the definition of homs of `PartialFun`...

File: Mathlib/CategoryTheory/Category/PartialFun.lean [hunk 10]
```diff
@@ -84,83 +84,83 @@ instance : typeToPartialFun.Faithful where
...
 
--- b ∈ PFun.toSubtype (fun x ↦ x ≠ X.point) Subtype.val a ↔ b ∈ Part.some a
-set_option backward.isDefEq.respectTransparency false in
 /-- The functor which deletes the point of a pointed type. In return, this makes the maps partial.
 This is the computable part of the equivalence `PartialFunEquivPointed`. -/
 @[simps obj map]
 def pointedToPartialFun : Pointed.{u} ⥤ PartialFun where
   obj X := PartialFun.of { x : X // x ≠ X.point }
-  map f := PFun.toSubtype _ f.toFun ∘ Subtype.val
+  map {X Y} f := PFun.mk (PFun.toSubtype (· ≠ Y.point) f.toFun ∘ Subtype.val)
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Category/PartialFun.lean]: Can you use anonymous dot notation or anonymous constructor as much as possible?
```suggestion
  map {X Y} f := .mk (PFun.toSubtype (· ≠ Y.point) f.toFun ∘ Subtype.val)
```
```suggestion
  map {X Y} f := \<PFun.toSubtype (· ≠ Y.point) f.toFun ∘ Subtype.val\>
```

File: Mathlib/Computability/Partrec.lean [hunk 11]
```diff
@@ -193,29 +197,29 @@ theorem of_primrec {f : ℕ → ℕ} (hf : Nat.Primrec f) : Nat.Partrec f := by
...
+    simp only [Nat.unpaired, PFun.coe_mk]
     induction n.unpair.2 with
     | zero => simp
     | succ m IH =>
-      simp only [mem_bind_iff, mem_some_iff]
+      simp only [PFun.coe_val, bind_eq_bind, mem_bind_iff, mem_some_iff]
       exact ⟨_, IH, rfl⟩
 
-protected theorem some : Nat.Partrec some :=
+protected theorem some : Nat.Partrec (PFun.id ℕ) :=
```
Comment (YaelDillies) [inline Mathlib/Computability/Partrec.lean]:
```suggestion
protected theorem id : Nat.Partrec (.id ℕ) :=
```
and you'll need to add a deprecation

File: Mathlib/Computability/Partrec.lean [hunk 12]
```diff
@@ -193,29 +197,29 @@ theorem of_primrec {f : ℕ → ℕ} (hf : Nat.Primrec f) : Nat.Partrec f := by
...
   of_primrec Primrec.id
 
 set_option backward.isDefEq.respectTransparency false in
-theorem none : Nat.Partrec fun _ => none :=
+theorem none : Nat.Partrec fun _ ↦. Part.none :=
```
Comment (YaelDillies) [inline Mathlib/Computability/Partrec.lean]:
```suggestion
theorem none : Nat.Partrec fun _ ↦. 
.none :=
```
and everywhere else too

**Comment by AlexeyMilovanov** [comment]
-awaiting-author

File: Mathlib/CategoryTheory/Category/PartialFun.lean [hunk 13]
```diff
@@ -84,83 +84,81 @@ instance : typeToPartialFun.Faithful where
...
+      fun ⟨_, hb, h⟩ => hb ▸ h⟩
 
 set_option backward.defeqAttrib.useBackward true in
 set_option backward.isDefEq.respectTransparency false in
+open Classical in
 /-- The functor which maps undefined values to a new point. This makes the maps total and creates
 pointed types. This is the noncomputable part of the equivalence `PartialFunEquivPointed`. It can't
 be computable because `= Option.none` is decidable while the domain of a general `Part` isn't. -/
 @[simps obj map]
-noncomputable def partialFunToPointed : PartialFun ⥤ Pointed := by
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Category/PartialFun.lean]: This is a regression in the sense that the previous code ensured that classical instances wouldn't be used in the *statement* of the def

File: Mathlib/Computability/Partrec.lean [hunk 14]
```diff
@@ -159,21 +159,25 @@ theorem rfindOpt_mono {α} {f : ℕ → Option α} (H : ∀ {a m n}, m ≤ n →
...
 protected inductive Partrec : (ℕ →. ℕ) → Prop
-  | zero : Nat.Partrec (pure 0)
-  | succ : Nat.Partrec succ
-  | left : Nat.Partrec ↑fun n : ℕ => n.unpair.1
-  | right : Nat.Partrec ↑fun n : ℕ => n.unpair.2
-  | pair {f g} : Nat.Partrec f → Nat.Partrec g → Nat.Partrec fun n => pair <$> f n <*> g n
-  | comp {f g} : Nat.Partrec f → Nat.Partrec g → Nat.Partrec fun n => g n >>= f
-  | prec {f g} : Nat.Partrec f → Nat.Partrec g → Nat.Partrec (unpaired fun a n =>
-      n.rec (f a) fun y IH => do let i ← IH; g (pair a (pair y i)))
+  | zero : Nat.Partrec fun _ : ℕ => 0
```
Comment (YaelDillies) [inline Mathlib/Computability/Partrec.lean]: Why not
```suggestion
  | zero : Nat.Partrec fun _ \mapsto. 0
```
? Similarly below

File: Mathlib/Computability/StateTransition.lean [hunk 15]
```diff
@@ -30,7 +30,7 @@ namespace StateTransition
 state returned before a `none` result. If the state transition function always returns `some`,
 then the computation diverges, returning `Part.none`. -/
 def eval {σ} (f : σ → Option σ) : σ → Part σ :=
-  PFun.fix fun s ↦ Part.some <| (f s).elim (Sum.inl s) Sum.inr
+  PFun.fix fun s ↦ (f s).elim (Sum.inl s) Sum.inr
```
Comment (YaelDillies) [inline Mathlib/Computability/StateTransition.lean]:
```suggestion
  PFun.fix fun s ↦. (f s).elim (Sum.inl s) Sum.inr
```

**Review by YaelDillies — COMMENTED** [review]
Can you make sure that `(fun x \mapsto f x : PFun _ _)` gets replaced by `(fun x \mapsto. f x : PFun _ _)` everywhere? The latter is the simp normal form (or at least I hope it is?)

File: Mathlib/Data/PFun.lean [hunk 16]
```diff
@@ -539,11 +569,11 @@ theorem prodLift_apply (f : α →. β) (g : α →. γ) (x : α) :
...
     y ∈ f.prodLift g x ↔ y.1 ∈ f x ∧ y.2 ∈ g x := by
   trans ∃ hp hq, (f x).get hp = y.1 ∧ (g x).get hq = y.2
-  · simp only [prodLift, Part.mem_mk_iff, And.exists, Prod.ext_iff]
+  · simp only [prodLift_apply, Part.mem_mk_iff, And.exists, Prod.ext_iff]
   · simp only [exists_and_left, exists_and_right, Membership.mem, Part.Mem]
 
 /-- Product of partial functions. -/
-def prodMap (f : α →. γ) (g : β →. δ) : α × β →. γ × δ := fun x =>
+def prodMap (f : α →. γ) (g : β →. δ) : α × β →. γ × δ := fun x ↦.
   ⟨(f x.1).Dom ∧ (g x.2).Dom, fun h => ((f x.1).get h.1, (g x.2).get h.2)⟩
```
Comment (YaelDillies) [inline Mathlib/Data/PFun.lean]: That looks incorrect. Shouldn't it instead be
```suggestion
def prodMap (f : α →. γ) (g : β →. δ) : α × β →. γ × δ where
  toFun x := ⟨(f x.1).Dom ∧ (g x.2).Dom, fun h => ((f x.1).get h.1, (g x.2).get h.2)⟩
```
?

**Comment by YaelDillies** [comment]
> Can you make sure that `(fun x \mapsto f x : PFun _ _)` gets replaced by `(fun x \mapsto. f x : PFun _ _)` everywhere? The latter is the simp normal form (or at least I hope it is?)

Sorry, I meant `(\u(fun x \mapsto f x) : PFun _ _)` to be clear, where the coercion is that of total function to partial functions.

File: Mathlib/CategoryTheory/Category/PartialFun.lean [hunk 17]
```diff
@@ -110,55 +108,65 @@ be computable because `= Option.none` is decidable while the domain of a general
...
+        simp [CategoryStruct.comp, Pointed.Hom.comp, Option.elim'_eq_elim,
+          Part.bind_toOption] }
 
 set_option backward.isDefEq.respectTransparency false in
 /-- The equivalence induced by `PartialFunToPointed` and `PointedToPartialFun`.
 `Part.equivOption` made functorial. -/
-@[simps!]
+@[simps! functor_obj_X functor_obj_point functor_map_toFun inverse_obj inverse_map_apply_Dom
+  inverse_map_apply_get_coe unitIso_hom_app unitIso_inv_app counitIso_hom_app_toFun
+  counitIso_inv_app_toFun]
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Category/PartialFun.lean:132]: Can you motivate this change?

File: Mathlib/CategoryTheory/Category/PartialFun.lean [hunk 18]
```diff
@@ -110,55 +108,65 @@ be computable because `= Option.none` is decidable while the domain of a general
...
     ext (_ | x)
     · rfl
-    · simp
-      rfl
+    · classical
+      change Equiv.optionSubtypeNe (none : Option X) ((PFun.lift _ x).toOption) = some x
+      simp
+
+@[backward_defeq]
+alias partialFunEquivPointed_inverse_map_Dom := partialFunEquivPointed_inverse_map_apply_Dom
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Category/PartialFun.lean]: What does this attribute do here?

Comment (YaelDillies) [inline Mathlib/CategoryTheory/Category/PartialFun.lean]: Note for the future: We are missing `initialize_simps_projections Part (Dom \r dom)`

File: Mathlib/Computability/Partrec.lean [hunk 19]
```diff
@@ -158,21 +158,25 @@ theorem rfindOpt_mono {α} {f : ℕ → Option α} (H : ∀ {a m n}, m ≤ n →
...
   | rfind {f} : Nat.Partrec f →
-    Nat.Partrec fun a => rfind fun n => (fun m => m = 0) <$> f (pair a n)
+    Nat.Partrec fun a ↦. Nat.rfind fun n ↦.
+      (fun m => decide (m = 0)) <$> f (Nat.pair a n)
 
 namespace Partrec
 
 theorem of_eq {f g : ℕ →. ℕ} (hf : Nat.Partrec f) (H : ∀ n, f n = g n) : Nat.Partrec g :=
-  (funext H : f = g) ▸ hf
+  (DFunLike.ext _ _ H : f = g) ▸ hf
```
Comment (YaelDillies) [inline Mathlib/Computability/Partrec.lean]:
```suggestion
  DFunLike.ext _ _ H ▸ hf
```
maybe?

File: Mathlib/Computability/Partrec.lean [hunk 20]
```diff
@@ -192,29 +196,32 @@ theorem of_primrec {f : ℕ → ℕ} (hf : Nat.Primrec f) : Nat.Partrec f := by
...
     eq_none_iff.2 fun _ ⟨h, _⟩ => by simp at h
 
 theorem prec' {f g h} (hf : Nat.Partrec f) (hg : Nat.Partrec g) (hh : Nat.Partrec h) :
-    Nat.Partrec fun a => (f a).bind fun n => n.rec (g a)
-      fun y IH => do {let i ← IH; h (Nat.pair a (Nat.pair y i))} :=
-  ((prec hg hh).comp (pair Partrec.some hf)).of_eq fun a =>
-    ext fun s => by simp [Seq.seq]
+    Nat.Partrec fun a ↦. (f a).bind fun n => Nat.rec (g a)
+      (fun y IH => do let i ← IH; h (Nat.pair a (Nat.pair y i))) n :=
+  ((prec hg hh).comp (pair Nat.Partrec.id hf)).of_eq fun a =>
```
Comment (YaelDillies) [inline Mathlib/Computability/Partrec.lean]:
```suggestion
  ((prec hg hh).comp (pair .id hf)).of_eq fun a =>
```

File: Mathlib/Computability/Partrec.lean [hunk 21]
```diff
@@ -383,54 +391,58 @@ variable {α : Type*} {β : Type*} {σ : Type*} [Primcodable α] [Primcodable β
 open Computable
 
 theorem of_eq {f g : α →. σ} (hf : Partrec f) (H : ∀ n, f n = g n) : Partrec g :=
-  (funext H : f = g) ▸ hf
+  (DFunLike.ext _ _ H : f = g) ▸ hf
```
Comment (YaelDillies) [inline Mathlib/Computability/Partrec.lean]:
```suggestion
  DFunLike.ext _ _ H ▸ hf
```

File: Mathlib/Computability/PartrecBasis.lean [hunk 22]
```diff
@@ -48,43 +49,41 @@ theorem to_part {n f} (pf : @Partrec' n f) : Partrec f := by
...
-        this).to₂.partrec₂
-    exact _root_.Partrec.rfind this
+    exact _root_.Partrec.rfind <|
+      (Primrec.eq.decide.comp _root_.Primrec.id (_root_.Primrec.const 0)).to_comp.comp
+        (hf.comp (vector_cons.comp snd fst))
 
 theorem of_eq {n} {f g : List.Vector ℕ n →. ℕ} (hf : Partrec' f) (H : ∀ i, f i = g i) :
     Partrec' g :=
-  (funext H : f = g) ▸ hf
+  (DFunLike.ext _ _ H : f = g) ▸ hf
```
Comment (YaelDillies) [inline Mathlib/Computability/PartrecBasis.lean]:
```suggestion
  DFunLike.ext _ _ H ▸ hf
```

File: Mathlib/Computability/PartrecBasis.lean [hunk 23]
```diff
@@ -130,12 +128,11 @@ theorem rfindOpt {n} {f : List.Vector ℕ (n + 1) → ℕ} (hf : @Partrec' (n +
 open Nat.Partrec.Code
 
 theorem of_part : ∀ {n f}, Partrec f → @Partrec' n f :=
-  @(suffices ∀ f, Nat.Partrec f → @Partrec' 1 fun v => f v.head from fun {n f} hf => by
-      let g := fun n₁ =>
+  @(suffices ∀ f, Nat.Partrec f → @Partrec' 1 (fun v ↦. f v.head) from fun {n f} hf => by
```
Comment (YaelDillies) [inline Mathlib/Computability/PartrecBasis.lean]: Is this getting misparsed?
```suggestion
  @(suffices ∀ f, Nat.Partrec f → @Partrec' 1 fun v ↦. f v.head from fun {n f} hf => by
```
If so, can you fix it?

File: Mathlib/Computability/RecursiveIn.lean [hunk 24]
```diff
@@ -108,7 +107,7 @@ variable {f g : ℕ →. ℕ}
 
 theorem of_eq {O} (hf : Nat.RecursiveIn O f) (H : ∀ n, f n = g n) :
     Nat.RecursiveIn O g :=
-  (funext H : f = g) ▸ hf
+  (DFunLike.ext _ _ H : f = g) ▸ hf
```
Comment (YaelDillies) [inline Mathlib/Computability/RecursiveIn.lean]:
```suggestion
  DFunLike.ext _ _ H ▸ hf
```

File: Mathlib/Computability/RecursiveIn.lean [hunk 25]
```diff
@@ -186,19 +185,22 @@ namespace RecursiveIn
 
 lemma of_eq {f g : α →. σ} (hf : RecursiveIn O f)
     (H : ∀ x, f x = g x) : RecursiveIn O g :=
-  (funext H : f = g) ▸ hf
+  (DFunLike.ext _ _ H : f = g) ▸ hf
```
Comment (YaelDillies) [inline Mathlib/Computability/RecursiveIn.lean]:
```suggestion
  DFunLike.ext _ _ H ▸ hf
```

File: Mathlib/Data/PFun.lean [hunk 26]
```diff
@@ -56,20 +57,44 @@ Monad operations:
...
 open Function
 
-/-- `PFun α β`, or `α →. β`, is the type of partial functions from
-  `α` to `β`. It is defined as `α → Part β`. -/
-def PFun (α β : Type*) :=
-  α → Part β
+/-- `PFun α β`, or `α →. β`, is the type of partial functions from `α` to `β`.
+It is defined as a structure wrapping `α → Part β`. -/
+structure PFun (α β : Type*) where
+  /-- The underlying partial function -/
```
Comment (YaelDillies) [inline Mathlib/Data/PFun.lean]:
```suggestion
  /-- The underlying partial function.
  
  Do NOT use directly. Instead use DFunLike.coe`, the automatically-inserted coercion to functions. -/
```

File: Mathlib/CategoryTheory/Category/PartialFun.lean (hunk 17 above)
Comment (YaelDillies) [reply Mathlib/CategoryTheory/Category/PartialFun.lean:132]: Thanks. Do you know you can do `-projName` to remove a specific projection, instead of specifying the very long list of projections you want?

File: Mathlib/Computability/PartrecBasis.lean [hunk 27]
```diff
@@ -48,43 +49,41 @@ theorem to_part {n f} (pf : @Partrec' n f) : Partrec f := by
...
-    (hg : @Partrec' (n + 1) g) : @Partrec' n fun v => (f v).map fun a => g (a ::ᵥ v) := by
+    (hg : @Partrec' (n + 1) g) :
+    @Partrec' n fun v ↦. (f v).map fun a => g (a ::ᵥ v) := by
   simpa [(Part.bind_some_eq_map _ _).symm] using hf.bind hg
 
 /-- Analogous to `Nat.Partrec'` for `ℕ`-valued functions, a predicate for partial recursive
   vector-valued functions. -/
 def Vec {n m} (f : List.Vector ℕ n → List.Vector ℕ m) :=
-  ∀ i, Partrec' fun v => (f v).get i
+  ∀ i, @Partrec' n fun v ↦. (f v).get i
```
Comment (YaelDillies) [inline Mathlib/Computability/PartrecBasis.lean]: Why do you need this change?

File: Mathlib/Computability/Partrec.lean [hunk 28]
```diff
@@ -192,29 +196,32 @@ theorem of_primrec {f : ℕ → ℕ} (hf : Nat.Primrec f) : Nat.Partrec f := by
...
-  ((prec hg hh).comp (pair Partrec.some hf)).of_eq fun a =>
-    ext fun s => by simp [Seq.seq]
+    Nat.Partrec fun a ↦. (f a).bind fun n => Nat.rec (g a)
+      (fun y IH => do let i ← IH; h (Nat.pair a (Nat.pair y i))) n :=
+  ((prec hg hh).comp (pair .id hf)).of_eq fun a =>
+    by simp [Seq.seq, Nat.unpaired, PFun.coe_mk]
 
 set_option backward.isDefEq.respectTransparency false in
-theorem ppred : Nat.Partrec fun n => ppred n :=
+theorem ppred : Nat.Partrec fun n ↦. Part.ofOption (Nat.ppred n) :=
```
Comment (YaelDillies) [inline Mathlib/Computability/Partrec.lean]: Doesn't the coercion work on its own?
```suggestion
theorem ppred : Nat.Partrec fun n ↦. Nat.ppred n :=
```

File: Mathlib/Computability/StateTransition.lean (hunk 15 above)
Comment (AlexeyMilovanov) [reply Mathlib/Computability/StateTransition.lean]: The exact suggested form

```lean
PFun.fix fun s ↦. (f s).elim (Sum.inl s) Sum.inr
```

does not elaborate. Lean infers the result of `Option.elim` as `σ ⊕ σ` and does not insert the outer coercion to `Part (σ ⊕ σ)`.

This version does elaborate:

```lean
PFun.fix fun s ↦. ((f s).elim (Sum.inl s) Sum.inr : σ ⊕ σ)
```

but I kept

```lean
PFun.fix fun s ↦. .some <| (f s).elim (Sum.inl s) Sum.inr
```

because it makes the conversion to `Part` explicit and avoids the additional type ascription.

File: Mathlib/CategoryTheory/Category/PartialFun.lean (hunk 17 above)
Comment (AlexeyMilovanov) [reply Mathlib/CategoryTheory/Category/PartialFun.lean:132]: Yes, but `-projName` is only supported by `initialize_simps_projections`, not locally by `@[simps]`. For example, `@[simps! -unitIso]` fails because `unitIso` is interpreted as a `Simps.Config` option. Using `initialize_simps_projections Equivalence (-unitIso)` would change the global defaults and affect other generated lemmas, so I used an explicit local list instead.

File: Mathlib/Computability/StateTransition.lean (hunk 15 above)
Comment (YaelDillies) [reply Mathlib/Computability/StateTransition.lean]: Looks good yes, better than what was before

**Comment by YaelDillies** [comment]
Can you please get the hang of resolving the comments you've satisfactorily addressed and removing `awaiting-author` once you've resolved or replied to every outstanding comment?

**Comment by AlexeyMilovanov** [comment]
-awaiting-author

File: Mathlib/Computability/Partrec.lean [hunk 29]
```diff
@@ -383,54 +391,58 @@ variable {α : Type*} {β : Type*} {σ : Type*} [Primcodable α] [Primcodable β
...
-  (hg.comp (Nat.Partrec.some.pair hf)).of_eq fun n => by
+    Partrec fun a ↦. (f a).bind (g a) :=
+  (hg.comp (Nat.Partrec.id.pair hf)).of_eq fun n => by
     rcases e : decode (α := α) n <;> simp [Seq.seq, e, encodek]
 
 theorem map {f : α →. β} {g : α → β → σ} (hf : Partrec f) (hg : Computable₂ g) :
-    Partrec fun a => (f a).map (g a) := by
-  simpa [bind_some_eq_map] using Partrec.bind (g := fun a x => some (g a x)) hf hg
+    Partrec fun a ↦. (f a).map (g a) :=
+  (Partrec.bind hf hg.partrec₂).of_eq fun a => Part.bind_some_eq_map (g a) (f a)
```
Comment (YaelDillies) [inline Mathlib/Computability/Partrec.lean]:
```suggestion
  (hf.bind hg.partrec₂).of_eq fun a => Part.bind_some_eq_map (g a) (f a)
```

File: Mathlib/Computability/Partrec.lean [hunk 30]
```diff
@@ -496,50 +518,52 @@ variable {α : Type*} {σ : Type*} [Primcodable α] [Primcodable σ]
...
+          exact ⟨⟨hD n, H.fst⟩, H.snd⟩
 
 theorem bind_decode₂_iff {f : α →. σ} :
-    Partrec f ↔ Nat.Partrec fun n => Part.bind (decode₂ α n) fun a => (f a).map encode :=
+    Partrec f ↔ Nat.Partrec fun n ↦. Part.bind (decode₂ α n) fun a => (f a).map encode :=
   ⟨fun hf =>
     nat_iff.1 <|
       (Computable.ofOption Primrec.decode₂.to_comp).bind <|
-        (map hf (Computable.encode.comp snd).to₂).comp snd,
+        (Partrec.map hf (Computable.encode.comp snd).to₂).comp snd,
```
Comment (YaelDillies) [inline Mathlib/Computability/Partrec.lean]:
```suggestion
        (hf.map (Computable.encode.comp snd).to₂).comp snd,
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by jcommelin** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/84925287234bd9558a71992b6040afc403b923d5?reference=fa6385b14b12cedc32e91385e20b4ef0e0ec9e1c) for 84925287234bd9558a71992b6040afc403b923d5 against fa6385b14b12cedc32e91385e20b4ef0e0ec9e1c are in. No significant results found. @jcommelin

- ✅ `build//instructions`: **-67.0G** (**-0.05%**)

**Medium changes (1🟥)**

- 🟥 `build/module/Mathlib.Computability.Partrec//instructions`: **+4.1G** (**+15.75%**)

**Small changes (2✅, 4🟥)**

- ✅ `build/module/Mathlib.CategoryTheory.Category.PartialFun//instructions`: **-1.1G** (**-12.79%**)
- 🟥 `build/module/Mathlib.Computability.Ackermann//instructions`: **+410.2M** (**+2.47%**)
- 🟥 `build/module/Mathlib.Computability.PartrecCode//instructions`: **+1.8G** (**+3.16%**)
- 🟥 `build/module/Mathlib.Computability.RE//instructions`: **+896.7M** (**+9.28%**)
- 🟥 `build/module/Mathlib.Computability.TuringMachine.Config//instructions`: **+1.2G** (**+5.05%**)
- ✅ `build/module/Mathlib.NumberTheory.NumberField.FinitePlaces//instructions`: **-88.0M** (**-1.89%**)

**Comment by jcommelin** [comment]
Thanks for your PR!

I think I understand the motivation for this PR: using `fun_prop` in computability proofs. Do you have particular examples of this to demonstrate that the PR works? Because as it stands, this patch mostly seems to be making proofs a bit longer, instead of shorter.

**Comment by AlexeyMilovanov** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/bed3641725406aa2b2aab0636eb066d5e3ccb35a?reference=5315eef9e4ffb98e0f89f278b765c50a149f66ca) for bed3641725406aa2b2aab0636eb066d5e3ccb35a against 5315eef9e4ffb98e0f89f278b765c50a149f66ca are in. No significant results found. @AlexeyMilovanov

- 🟥 `build//instructions`: **+15.7G** (**+0.01%**)

**Small changes (2✅, 1🟥)**

- ✅ `build/module/Mathlib.CategoryTheory.Category.PartialFun//instructions`: **-1.2G** (**-14.39%**)
- ✅ `build/module/Mathlib.Computability.Ackermann//instructions`: **-487.8M** (**-2.97%**)
- 🟥 `build/module/Mathlib.Computability.TuringMachine.Config//instructions`: **+1.2G** (**+5.18%**)

**Comment by AlexeyMilovanov** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/371cb47e8ff7ce9beedb15303279bb57a6209dec?reference=5315eef9e4ffb98e0f89f278b765c50a149f66ca) for 371cb47e8ff7ce9beedb15303279bb57a6209dec against 5315eef9e4ffb98e0f89f278b765c50a149f66ca are in. No significant results found. @AlexeyMilovanov

- 🟥 `build//instructions`: **+5.8G** (**+0.00%**)

**Small changes (2✅, 2🟥)**

- 🟥 `build/module/Aesop.Frontend.Extension//instructions`: **+26.7M** (**+0.96%**)
- ✅ `build/module/Mathlib.CategoryTheory.Category.PartialFun//instructions`: **-1.2G** (**-14.10%**)
- ✅ `build/module/Mathlib.Computability.Ackermann//instructions`: **-494.8M** (**-3.01%**)
- 🟥 `build/module/Mathlib.Computability.TuringMachine.Config//instructions`: **+1.2G** (**+5.13%**)
